US07705042B2
d) 5-Cyano-furan-2-carboxylic acid[4-methyl-5′-(4-methyl-piperazin-1-yl)-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-2′-yl]-amide
4-Methy-5′-(4-methyl-piperazin-1-yl)-2′-nitro-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl (as prepared in the previous step) (319 mg, 1.00 mmol) was converted to corresponding amine according to the procedure in Example 55, step (c) and coupled with 5-cyano-furan-2-carbonyl chloride as prepared in Example 4, step (c) (obtained from 137 mg, 1.00 mmol of 5-cyano-furan-2-carboxylic acid as prepared in Example 1) in DMF (2 mL) at 0° C. The product was isolated by flash chromatography on silica (20% EtOAc/hexane-10% MeOH/EtOAc) to obtain the title compound (16 mg, 4%). 1H-NMR (CDCl3; 400 MHz): δ 9.35 (br s, 1H), 7.95 (br s, 1H), 7.33 (d, 1H, J=3.5 Hz), 7.22 (d, 1H), J=3.5 Hz), 7.06 (br s, 1H), 3.21 (m, 4H), 3.06 (m, 2H), 2.71 (m, 2H), 2.58 (m, 4H), 2.37 (s, 3H), 1.84 (m, 2H), 1.7-1.5 (m, 3H), 1.07 (d, 3H, J=6.3 Hz). LC-MS (ESI, m/z); Calcd. for C22H28N6O2, 409.2 (M+H), found 409.2.

reactant | 4-Methy-5′-(4-methyl-piperazin-1-yl)-2′-nitro-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl | CC1CCN(CC1)C=1C(=NC=C(C1)N1CCN(CC1)C)[N+](=O)[O-] | C16H25N5O2
reactant | 5-cyano-furan-2-carbonyl chloride | C(#N)C1=CC=C(O1)C(=O)Cl | C6H2ClNO2
reactant | 5-cyano-furan-2-carboxylic acid | 1.00 mmol, 137 mg | C(#N)C1=CC=C(O1)C(=O)O | C6H3NO3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-Cyano-furan-2-carboxylic acid[4-methyl-5′-(4-methyl-piperazin-1-yl)-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-2′-yl]-amide | 16 mg, 4% | CC1CCN(CC1)C=1C(=NC=C(C1)N1CCN(CC1)C)NC(=O)C=1OC(=CC1)C#N | C22H28N6O2
